US08383637B2
3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzonitrile
A mixture of 3-(4-amino-3-propylaminomethyl-phenoxy)-benzonitrile (0.032 mol) in ethanol (400 mL) was stirred at room temperature, and cyanogen bromide (0.038 mol) was added, and then the reaction mixture was stirred and refluxed for 2 hours. After cooling, the precipitate was filtered off, washed with diisopropyl ether and dried to yield crude product as a solid.

reactant | 3-(4-amino-3-propylaminomethyl-phenoxy)-benzonitrile | 0.032 mol | NC1=C(C=C(OC=2C=C(C#N)C=CC2)C=C1)CNCCC | C17H19N3O
reactant | cyanogen bromide | 0.038 mol | N#CBr | CBrN
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzonitrile | NC1=NC2=CC=C(C=C2CN1CCC)OC=1C=C(C#N)C=CC1 | C18H18N4O
